US08497264B2
To a solution of 7-bromo-3-chloro-1-fluoro-5-methylene-5H-chromeno[2,3-c]pyridine (33 g, 101 mmol) in THF (450 mL) were added successively water (69.2 mL), iodine (51.3 g, 202 mmol) and silver(II) oxide (46.8 g, 202 mmol) at RT. The reaction mixture was stirred at RT for 10 minutes before adding K2CO3 (41.9 g, 303 mmol). After 30 minutes, the reaction mixture was diluted with EtOAc and filtered through a pad of celite. The filter cake was washed with additional EtOAc. The combined filtrate was concentrated under reduced pressure upon which a white solid precipitated. The solid was filtered off. The filtrate was further concentrated under reduced pressure to obtain a residue which was triturated with ether to afford a white precipitate. The solid was filtered off, combined with the first solid and dried under reduced pressure to afford 7-bromo-3-chloro-1-fluorospiro[chromeno[2,3-c]pyridine-5,2′-oxirane] (23.56 g, 68.8 mmol).

reactant | 7-bromo-3-chloro-1-fluoro-5-methylene-5H-chromeno[2,3-c]pyridine | 101 mmol, 33 g | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)=C | C13H6BrClFNO
reactant | water | 69.2 mL | O | H2O
reactant | iodine | 202 mmol, 51.3 g | II | I2
reactant | K2CO3 | 303 mmol, 41.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 450 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | silver(II) oxide | 202 mmol, 46.8 g | [Ag]=O
product | 7-bromo-3-chloro-1-fluorospiro[chromeno[2,3-c]pyridine-5,2′-oxirane] | 68.8 mmol, 23.56 g | BrC=1C=C2C(=CC1)OC=1C(=NC(=CC1C21OC1)Cl)F | C13H6BrClFNO2
